US07417064B2
b) 7-methyl-benzo[d]isothiazol-4-ol
A solution of 7-bromo-4-methoxy-benzo[d]isothiazole (460 mg, 1.88 mmol), K2CO3 (780 mg, 5.64 mmol), and Pd(PPh3)4 (217 mg, 0.188 mmol) in 1,4-dioxane (5 mL) was added trimethylboroxine (290 μL, 2.07 mmol) and the solution was heated to 110° C. for 18 h. The reaction was cooled to rt and diluted with water and dichloromethane. The organic phase was separated and the aqueous phase was extracted with 2×30 mL dichloromethane. The combined organic phases were dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography eluting silica gel with EtOAc:hexane [0:100 to 1:10] to yield 4-methoxy-7-methyl-benzo[d]isothiazole (88 mg, 26%). A method similar to that described for the preparation of benzo[d]isothiazol-4-ol (above) using 4-methoxy-7-methyl-benzo[d]isothiazole (88 mg, 0.491 mmol) and pyridine hydrochloride (567 mg, 5 mol) gave the title compound (30 mg, 37%): δH (300 MHz, CDCl3): 8.99 (1H, s), 7.15 (1H, d, J=7.5 Hz), 6.70 (1H, d, J=7.5 Hz), 2.45 (3H, s).

reactant | benzo[d]isothiazol-4-ol | S1N=CC=2C1=CC=CC2O | C7H5NOS
reactant | 4-methoxy-7-methyl-benzo[d]isothiazole | 0.491 mmol, 88 mg | COC1=CC=C(C2=C1C=NS2)C | C9H9NOS
reactant | pyridine hydrochloride | 5 mol, 567 mg | Cl.N1=CC=CC=C1
product | 7-methyl-benzo[d]isothiazol-4-ol | 30 mg, 37% | CC=1C=CC(=C2C=NSC21)O | C8H7NOS
